US07858640B2
(S)-2-[3-(2,4-dichlorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]propionic Acid Methyl Ester
The title compounds were prepared by the method of Preparation 65c using (S)-2-(3-amino-4-fluorophenoxy)propionic acid methyl ester and 2-(2,4-dichlorobenzyl)-3-oxopentanoic acid methyl ester.

reactant | (S)-2-(3-amino-4-fluorophenoxy)propionic acid methyl ester | COC([C@H](C)OC1=CC(=C(C=C1)F)N)=O | C10H12FNO3
reactant | 2-(2,4-dichlorobenzyl)-3-oxopentanoic acid methyl ester | COC(C(C(CC)=O)CC1=C(C=C(C=C1)Cl)Cl)=O | C13H14Cl2O3
product | (S)-2-[3-(2,4-dichlorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]propionic Acid Methyl Ester | COC([C@H](C)OC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)Cl)Cl)=O)=O | C22H20Cl2FNO4
